US07057042B2
2-{[4-(2-methoxyphenyl)-1-piperazinyl]methyl}furo[3,2-b]pyridine
The product from Example 35B, 1-(2-methoxyphenyl)piperazine, and sodium triacetoxyborohydride were processed as described in Example 35C to provide the title compound. 1H NMR (CDCl3, 300 MHz) δ 2.85 (br, 4H), 3.19 (br, 4H), 3.85 (s, 3H), 3.88 (s, 2H), 6.93 (m, 5H), 7.20 (dd, 4.75, 8.14 Hz, 1H), 7.74 (m, J=1.02, 7.12 Hz, 1H), 8.54 (br, 1H); MS (DCI/NH3) m/z 324.2 (M+H)+; Anal Calcd for C19H21N3O2: C, 70.57; H, 6.55; N, 12.99. Found: C, 69.72; H, 6.45; N, 12.81.

reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 2-{[4-(2-methoxyphenyl)-1-piperazinyl]methyl}furo[3,2-b]pyridine | COC1=C(C=CC=C1)N1CCN(CC1)CC1=CC2=NC=CC=C2O1 | C19H21N3O2
